US04968672
4-FMOC-morpholine-2,6-dione.
N-FMOC-Iminodiacetic acid (0.40 g, 1.13 mmol) was suspended in 30 ml ethyl acetate and treated with 1 ml of trifluoracetic anhydride. After stirring for one hour, most of the solvent was evaporated. Petroleum ether was added, followed by evaporation, resulting in a solid residue was dried in vacuo at room temperature. The yield was 0.37 g (97%) mp 180°-185° C.

reactant | N-FMOC-Iminodiacetic acid | 1.13 mmol, 0.40 g | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N(CC(=O)O)CC(=O)O | C19H17NO6
reactant | trifluoracetic anhydride | 1 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | 4-FMOC-morpholine-2,6-dione | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N1CC(OC(C1)=O)=O | C19H15NO5
